US08349880B2
N-(3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-9-(3-fluoro-4-(trifluoromethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine
A solution of 5-(5-chloro-1-(3-fluoro-4-(trifluoromethoxy)phenyl)pentyl)-N-(3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine (989 mg, 1.83 mmol), sodium iodide (1.37 g, 9.13 mmol), and diisopropylethylamine (1.60 mL, 9.13 mmol) in acetone (25 mL) was heated in a sealed vessel at 100° C. for 6 h. The reaction was concentrated in vacuo. The crude product was purified using silica gel column chromatography (70% EtOAc/chloroform). The purified product was recrystallized from EtOAc/hexane to afford 211 mg (22% yield) of the titled compound as a white solid. LC-MS (M+H)+ 506.1. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 8.40 (1 H, d, J=2.4 Hz), 7.68 (1 H, dd, J=13.9, 2.3 Hz), 7.62 (1 H, t, J=8.7 Hz), 7.31 (1 H, t, J=8.1 Hz), 7.08 (1 H, dd, J=11.0, 2.1 Hz), 7.03 (1 H, dd, J=8.9, 2.4 Hz), 6.98 (1 H, d, J=8.5 Hz), 6.68 (1 H, s), 4.20-4.33 (3 H, m), 2.50 (3 H, s), 2.08-2.22 (2 H, m), 1.94-2.06 (2 H, m), 1.84-1.93 (2 H, m).

reactant | 5-(5-chloro-1-(3-fluoro-4-(trifluoromethoxy)phenyl)pentyl)-N-(3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine | 1.83 mmol, 989 mg | ClCCCCC(C1=CC(=C(C=C1)OC(F)(F)F)F)C1=NC(=NN1)NC1=CC(=C(C=C1)N1N=C(N=C1)C)F | C23H21ClF5N7O
reactant | sodium iodide | 9.13 mmol, 1.37 g | [I-].[Na+]
reactant | diisopropylethylamine | 9.13 mmol, 1.60 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | N-(3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-9-(3-fluoro-4-(trifluoromethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine | 211 mg, 22% yield | FC=1C=C(C=CC1N1N=C(N=C1)C)NC1=NN2C(C(CCCC2)C2=CC(=C(C=C2)OC(F)(F)F)F)=N1 | C23H20F5N7O
